US04705847
The 4-eq.-bromoadamantylidene adamantane has bee found to have particularly advantageous and unexpected properties. Thus, unlike the corresponding 4-eq.-chloroadamantylidene adamantane, this compound permits carrying out substitution reactions by means of solvolysis without requiring an adjuvant such as an Ag+ salt. It has moreover been found that certain substituents can be introduced in one step where this had not been possible before. The 4-eq.-bromoadamantylidene adamantane reacts with primary and secondary alcohols to form ethers, with carboxylic acids to form esters, with primary amines to form secondary amines, and with nitriles to form N-adamantylidene adamantyl amides. Furthermore it has been found to be possible to carry out halogen exchange reactions with this compound, for example, in a reaction with NaI/acetone. Reaction of 4-eq.-bromoadamantylidene adamantane with H2O/dioxane gives a quantitative yield of 4-eq.-hydroxyadamantylidene adamantane. The solvolysis reactions are carried out in the pure reagent as the solvent or together with dioxane or DMF as a co-solvent.

reactant | NaI acetone | [Na+].[I-].CC(=O)C
reactant | bromoadamantylidene adamantane | BrC12C(C3CC(CC(C1)C3)C2)=C2C3CC1CC(CC2C1)C3 | C20H27Br
solvent | H2O dioxane | O.O1CCOCC1
product | hydroxyadamantylidene adamantane | quantitative yield | OC12C(C3CC(CC(C1)C3)C2)=C2C3CC1CC(CC2C1)C3 | C20H28O
